US04330461
To a stirred, refluxing mixture of 3.56 g of 5-bromo-4-chloro-2-methylthiopyrimidine in 100 ml of o-dichlorobenzene under nitrogen was added dropwise 10.00 g of methyl diphenylphosphinite. After the addition was completed, the mixture was refluxed for 6 hours and then allowed to cool. Volatiles were removed from the mixture under vacuum, and the residue was recrystallized from 30 ml of 1-chlorobutane and dried at 50° C./0.1 mm (13 Pa) to give 2.97 g of 5-bromo-4-diphenylphosphinyl-2-methylthiopyrimidine as white crystals, mp 124°-127° C. Anal. Calcd for C17H14BrN2OPS: C, 50.39; H, 3.48; N, 6.91. Found: C, 50.54; H, 3.67; N, 6.84.

reactant | 5-bromo-4-chloro-2-methylthiopyrimidine | 3.56 g | BrC=1C(=NC(=NC1)SC)Cl | C5H4BrClN2S
reactant | methyl diphenylphosphinite | 10.00 g | C1(=CC=CC=C1)P(OC)C1=CC=CC=C1 | C13H13OP
solvent | o-dichlorobenzene | 100 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 5-bromo-4-diphenylphosphinyl-2-methylthiopyrimidine | 2.97 g | BrC=1C(=NC(=NC1)SC)P(=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H14BrN2OPS
